US04160841
A mixture of 10.5 parts of 4-(4-methoxyphenyl)-5-methyl-4H-1,2,4-triazole-3-thiol, 10 parts of Raney-nickel catalyst, 18 parts of ammonium hydroxide and 200 parts of methanol is stirred and refluxed for 4 hours. The reaction mixture is decanted while hot and the Raney-nickel catalyst is boiled in 160 parts of methanol. The latter is decanted and the combined methanol-phases are evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane. The product is filtered off and dried, yielding 4.2 parts of 4-(4-methoxyphenyl)-3-methyl-4H-1,2,4-triazole; mp. 111.9° C.

reactant | 4-(4-methoxyphenyl)-5-methyl-4H-1,2,4-triazole-3-thiol | COC1=CC=C(C=C1)N1C(=NN=C1C)S | C10H11N3OS
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 4-(4-methoxyphenyl)-3-methyl-4H-1,2,4-triazole | COC1=CC=C(C=C1)N1C(=NN=C1)C | C10H11N3O
